US06864396B2
A mixture of 120 grams of 2,5-bis(4-sec-butylbenzoyl)terephthalic acid, 1.5 L of tetrahydrofuran, and 9.65 grams of 10% palladium on carbon (as a catalyst) was heated at 65° C. for 17 hours in an atmosphere of hydrogen at 270 kPa. The reaction mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give a solid. The solid was triturated with 10% ethyl acetate in heptane, collected and dried to give 2,5-bis(4-sec-butylbenzyl)terephthalic acid.

reactant | 2,5-bis(4-sec-butylbenzoyl)terephthalic acid | 120 grams | C(C)(CC)C1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)C(C)CC)=O)C=C1 | C30H30O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 9.65 grams | [Pd] | Pd
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | 2,5-bis(4-sec-butylbenzyl)terephthalic acid | C(C)(CC)C1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)C(C)CC)C=C1 | C30H34O4
